US07951828B1
Step 3: Production of 3-chloro-2-fluoro-5-iodobenzotrifluoride
In 300 mL of 6N hydrochloric acid, 4.00 g of 3-chloro-4-fluoro-5-trifluoromethylaniline was added, and stirred at room temperature for 30 minutes. In the mixture, a solution of 1.42 g of sodium nitrite in 5 mL of water was added dropwise at such a rate that internal temperature would not exceed 5° C. After the completion of the addition dropwise, it was continued to stir at the same temperature further for 1 hour. In the reaction mixture, a solution of 4.70 g of potassium iodide in 15 mL of water was added dropwise at the same temperature with stirring. After the completion of the addition dropwise, it was continued to stir at the same temperature further for 1 hour and then at room temperature for 15 hours. After the completion of the reaction, the reaction mixture was extracted with 50 mL of diethyl ether twice. The combined organic phases were dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain 2.70 g of the crude aimed product as yellow oily substance. The resulting product was used as such without purification for the next step.

reactant | 3-chloro-4-fluoro-5-trifluoromethylaniline | 4.00 g | ClC=1C=C(N)C=C(C1F)C(F)(F)F | C7H4ClF4N
reactant | sodium nitrite | 1.42 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 4.70 g | [I-].[K+]
solvent | hydrochloric acid | 6N, 300 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 3-chloro-2-fluoro-5-iodobenzotrifluoride | 2.70 g | ClC=1C(=C(C=C(C1)I)C(F)(F)F)F | C7H2ClF4I
